US08461158B2
Reaction of 4-(tert-butyldimethylsilyloxy)-2-(difluoromethyl)-1H-benzimidazole with 2,4-dichloro-6-(4-morpholinyl)-1,3,5-triazine as in Example 2, but using acetone as solvent, followed by chromatography on silica gel eluting with CH2Cl2/hexanes 3:1 gave 4-(tert-butyldimethylsilyloxy)-1-[4-chloro-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-2-(difluoromethyl)-1H-benzimidazole: mp (hexanes) 143-145° C.; 1H NMR (CDCl3) δ 7.99 (d, J=8.4 Hz, 1H), 7.46 (t, JHF=53.5 Hz, 1H), 7.32 (t, J=8.2 Hz, 1H), 6.88 (d, J=8.0 Hz, 1H), 3.96 (m, 3.5H), 3.88 (m, 0.5H), 3.81 (m, 3.5H), 3.75 (m, 0.5H), 1.05 (s, 9H), 0.29 (s, 6H); MS (APCI+) 497.9/499.9 MH+. Anal. Calcd. for C21H27ClF2N6O2Si: C, 50.75; H, 5.5; N, 16.9. Found: C, 50.7; H, 5.6; N, 17.0%.

reactant | 4-(tert-butyldimethylsilyloxy)-2-(difluoromethyl)-1H-benzimidazole | [Si](C)(C)(C(C)(C)C)OC1=CC=CC=2NC(=NC21)C(F)F | C14H20F2N2OSi
reactant | 2,4-dichloro-6-(4-morpholinyl)-1,3,5-triazine | ClC1=NC(=NC(=N1)Cl)N1CCOCC1 | C7H8Cl2N4O
solvent | acetone | CC(=O)C | C3H6O
product | 4-(tert-butyldimethylsilyloxy)-1-[4-chloro-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-2-(difluoromethyl)-1H-benzimidazole | [Si](C)(C)(C(C)(C)C)OC1=CC=CC=2N(C(=NC21)C(F)F)C2=NC(=NC(=N2)Cl)N2CCOCC2 | C21H27ClF2N6O2Si
